US06184180B2
Synthesis of N-(2-morpholinoethyl)-11-decylthioundecanamide
In a 200 ml flask equipped with a stirrer, a condenser and a calcium chloride dryer tube were charged 2.6 g of morpholine and 50 ml of DMAc and the mixture was stirred under ice-cooling. To the solution was gradually added dropwise 7.5 g of 11-decylthioundecanoic acid chloride prepared in Synthetic example 13. After completion of dropwise addition, the mixture was returned to room temperature and further stirred for 2 hours. The reaction solution was diluted with 300 ml of toluene, and washed successively with a 5% aqueous sodium hydrogen carbonate solution, distilled water and a saturated saline solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure to obtain crystals. The crystals were recrystallized from n-hexane to obtain 6.9 g of the title compound. Melting point: 61° C.

reactant | morpholine | 2.6 g | N1CCOCC1 | C4H9NO
reactant | DMAc | 50 ml | CC(=O)N(C)C | C4H9NO
reactant | 11-decylthioundecanoic acid chloride | 7.5 g | C(CCCCCCCCC)CCCCCCCCCCC(=S)Cl | C21H41ClS
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-morpholinoethyl)-11-decylthioundecanamide | 6.9 g | O1CCN(CC1)CCNC(CCCCCCCCCCCCCCCCCCCC)=S | C27H54N2OS
